Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: CARDIOTHORACIC
 
Allergies: 
Vancomycin / Iodine; Iodine Containing / Meropenem / Ceftriaxone 
/ Ciprofloxacin / Flagyl
 
Attending: ___
 
Chief Complaint:
Recent MI
 
Major Surgical or Invasive Procedure:
___ Minimally Invasive CABG x 1(LIMA->LAD) with Endoscopic 
LIMA Takedown

 
History of Present Illness:
Mrs. ___ ___ female with a history of AML who 
presented with acute coronary syndrome back in ___.  She 
ruled in for ST-elevation
myocardial infarction and underwent successful thrombectomy and 
stenting to her right coronary artery.  Since discharge from the 
hospital, she has been doing quite well on medical therapy.  She 
currently denies chest pain, shortness of breath, or symptoms of 
congestive heart failure.  Given that she still has a severe 90% 
lesion in her left anterior descending artery, she presents for 
cardiac surgical intervention.

 
Past Medical History:
- Coronary Artery Disease, STEMI in ___ s/p PCI/stenting to 
RCA at that time
- History of AML, s/p chemotherapy, radiation and bone marrow 
transplantation
- Hypertension  
- Hypercholesterolemia  
- GERD  
- Type two diabetes mellitus - diet controlled  
- Diverticulosis, noted on colonoscopy ___ years ago  
- Occasional bronchospasm treated with Primatene Mist  
- History of SVC clot ___ PORT (s/p course of lovenox)  
- History of C.Diff ___ & ___  
- History of VRE
- History of Shingles
- History of Asthma

 
Social History:
___
Family History:
The patient's mother with a history of stroke. Both of her 
maternal and paternal grandmothers also had a history of CVA. 
Father with history of colon ___. No other known history of 
cancer in the family. No known blood disorders. Has a sister 
with ___. She has 2 sisters, the other sister with 
hypertension. 
 
Physical Exam:
Preop Physical examination:
pulse of 80, respirations of 16, and blood pressure of 100/60 
bilaterally.
In general, she was a well-developed and well-nourished female
in no acute distress.  Her skin was unremarkable.  Her
oropharynx was benign.  Her neck was supple with full range of
motion.  Her lungs were clear to auscultation bilaterally.  Her
heart had a regular rate and rhythm and normal S1 and S2 without
murmur or rub.  Her abdomen was benign.  Her extremities were
warm and well perfused without edema.  Her greater saphenous
vein appeared suitable.  There were no varicosities.
Neurologically, she was alert and oriented x3.  Her cranial
nerves II through XII were grossly intact.  She had ___ strength
and no focal deficits were appreciated.  Her femoral pulses were
2+ bilaterally.  Her radial pulses were 2+ bilaterally.  Her
lower extremity pulses were 1+ bilaterally.  No femoral or
carotid bruits were appreciated.

 
Pertinent Results:
___ Intraop TEE:
1. The left atrium is mildly dilated. No spontaneous echo 
contrast is seen in the left atrial appendage. No thrombus is 
seen in the left atrial appendage.
2. No atrial septal defect is seen by 2D or color Doppler.
3. Left ventricular wall thicknesses are normal. The left 
ventricular cavity size is top normal/borderline dilated. There 
is mild regional left ventricular systolic dysfunction with 
septal hypokinesis. Overall left ventricular systolic function 
is mildly depressed (LVEF= 45 %). 
4. Right ventricular chamber size and free wall motion are 
normal. 
5. There are simple atheroma in the aortic root. The ascending 
aorta is mildly dilated. There are simple atheroma in the 
ascending aorta. There are simple atheroma in the aortic arch. 
There are simple atheroma in the descending thoracic aorta. 
6. There are three aortic valve leaflets. The aortic valve 
leaflets are mildly thickened. There is no aortic valve 
stenosis. Trace aortic regurgitation is seen. 
7. The mitral valve appears structurally normal with trivial 
mitral regurgitation. 
8. Biventricular systolic function is preserved post CABG.  
___ 06:35AM BLOOD WBC-8.7 RBC-3.44* Hgb-10.9* Hct-31.6* 
MCV-92 MCH-31.8 MCHC-34.7 RDW-16.9* Plt ___
___ 10:30AM BLOOD Glucose-259* UreaN-20 Creat-1.0 Na-135 
K-4.6 Cl-98 HCO3-27 AnGap-15    ___ ___ F  ___  ___ 
 
Radiology Report CHEST (PA & LAT) Study Date of ___ 8:55 AM 

 
  
___ CSURG FA6A ___ SCHED 
CHEST (PA & LAT)   Clip # ___   
Reason: ptx  
 

 
UNDERLYING MEDICAL CONDITION: 
   ___ year old woman s/p min. inv. CABG  
REASON FOR THIS EXAMINATION: 
   ptx  

 
 
Final Report 
HISTORY: Status post minimally invasive CABG, to evaluate for 
pneumothorax. 
  
FINDINGS: In comparison with the study of ___, the patient has 
taken a 
somewhat better inspiration. No definite residual pneumothorax, 
though bony 
structures somewhat obscure the uppermost portion of the left 
apex. 
  
Little change in the appearance of the heart and lungs. 
  
___. ___ 
___: SAT ___ 9:29 AM 
 
  Imaging Lab 
 

 
Brief Hospital Course:
On admission, Mrs. ___ underwent minimally invasive coronary 
artery bypass grafting surgery by Dr. ___. For surgical 
details, please see seperate dictated operative note. Following 
the operation, she was brought to the CVICU for invasive 
monitoring. Within 24 hours, she awoke neurologically intact and 
was extubated without incident. Aspirin and Plavix were resumed 
given her recent right coronary artery cypher stent. Her CVICU 
course was otherwise uneventful and she transferred to the SDU 
on postoperative day one. She went on to experience rapid atrial 
fibrillation which converted medically. She progressed well and 
was ready for discharge to home with ___ services on POD#4. She 
has been instructed to followup with her PCP, ___, and 
___.
 
Medications on Admission:
Acyclovir 400 mg t.i.d., Albuterol MDI p.r.n., Lipitor 80 mg 
daily, Plavix 75 mg daily, Desonide cream as needed, Xalatan eye 
drops, Ativan p.r.n., Toprol 25 mg daily, Protonix 40 mg b.i.d., 
Prednisone 10 mg daily, Zantac 150 mg daily, Pentamidine 
inhaler, and Aspirin 325 mg daily.

 
Discharge Medications:
1. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).
Disp:*60 Capsule(s)* Refills:*2*
2. Aspirin 81 mg Tablet, Delayed Release (E.C.) Sig: One (1) 
Tablet, Delayed Release (E.C.) PO DAILY (Daily).
Disp:*30 Tablet, Delayed Release (E.C.)(s)* Refills:*0*
3. Pantoprazole 40 mg Tablet, Delayed Release (E.C.) Sig: One 
(1) Tablet, Delayed Release (E.C.) PO Q12H (every 12 hours).
Disp:*60 Tablet, Delayed Release (E.C.)(s)* Refills:*2*
4. Oxycodone-Acetaminophen ___ mg Tablet Sig: ___ Tablets PO 
Q4H (every 4 hours) as needed for pain.
Disp:*40 Tablet(s)* Refills:*0*
5. Atorvastatin 80 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).
Disp:*30 Tablet(s)* Refills:*0*
6. Clopidogrel 75 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).
Disp:*30 Tablet(s)* Refills:*0*
7. Latanoprost 0.005 % Drops Sig: One (1) Drop Ophthalmic HS (at 
bedtime): both eyes.
Disp:*1 * Refills:*0*
8. Acyclovir 200 mg Capsule Sig: Two (2) Capsule PO Q8H (every 8 
hours).
Disp:*180 Capsule(s)* Refills:*0*
9. Prednisone 5 mg Tablet Sig: Two (2) Tablet PO DAILY (Daily).
Disp:*60 Tablet(s)* Refills:*0*
10. Metoprolol Tartrate 25 mg Tablet Sig: One (1) Tablet PO TID 
(3 times a day).
Disp:*90 Tablet(s)* Refills:*0*
11. Furosemide 40 mg Tablet Sig: One (1) Tablet PO once a day 
for 3 days.
Disp:*3 Tablet(s)* Refills:*0*
12. Potassium Chloride 10 mEq Tablet Sustained Release Sig: Two 
(2) Tablet Sustained Release PO once a day for 3 days.
Disp:*6 Tablet Sustained Release(s)* Refills:*0*

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Coronary Artery Disease - s/p Minimally Invasive CABG
Postop Atrial Fibrillation
Recent STEMI with PCI stenting in ___
History of AML, Bone Marrow Transplantation ___
Hypertension
Hyperlipidemia
NIDDM
Adrenal insufficiency
GERD
History of superior vena cava clot due to portacath
History of C.diff and VRE

 
Discharge Condition:
Good

 
Discharge Instructions:
1)Please shower daily. No baths. Pat dry incisions, do not rub.
2)Avoid creams and lotions to surgical incisions.
3)Call cardiac surgeon if there is concern for wound infection.
4)No lifting more than 10 lbs for at least 10 weeks from 
surgical date.
5)No driving for at least one month.

 
Followup Instructions:
___